CIRCUIT D:\INGEGNERIA\Microelectronics\Microwind4Cav\NotCarryGenerator\NotCarryGenerator.MSK
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
*
* List of nodes
* "notCarry" corresponds to n°3
* "N4" corresponds to n°4
* "a" corresponds to n°5
* "b" corresponds to n°6
* "c" corresponds to n°7
*
* MOS devices
MP1 1 7 3 1 P1  W= 6.24U L= 0.12U
MP2 1 5 4 1 P1  W= 3.12U L= 0.12U
MP3 4 6 3 1 P1  W= 3.12U L= 0.12U
*
C2 1 0  8.137fF
C3 3 0  1.717fF
C4 4 0  0.498fF
C5 5 0  0.429fF
C6 6 0  0.444fF
C7 7 0  0.351fF
*
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 UO=200.000 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.30PS 5.00N
.PROBE
.END
